US04849424
In anhydrous tetrahydrofuran, 298 mg of 4,6-dichloro-pyrimidine was substituted with 136 mg of imidazole. The reaction mixture was treated according to the procedure of Example 5 to yield 283 mg of the 6-chloro-4-(1-imidazolyl)pyrimidine, recrystallized from a mixture of n-hexane and ethyl acetate, having a melting point of 131.5°-132° C.

reactant | 4,6-dichloro-pyrimidine | 298 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | imidazole | 136 mg | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-chloro-4-(1-imidazolyl)pyrimidine | 283 mg | ClC1=CC(=NC=N1)N1C=NC=C1 | C7H5ClN4
